US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-pyridyl)piperazine (Compound 20)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-pyridyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 79%). 1H NMR (200 MHz, CDCl3): δ 3.71 (s, 7H), 4.11 (s, 4H), 6.66 (d, J=9.0 Hz, 2H), 7.10 (m, 1H), 7.22-7.25 (m, 1H), 7.38-7.54 (m, 3H), 7.65-7.68 (m, 1H), 8.19 (d, J=3.8 Hz, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(2-pyridyl)piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-pyridyl)piperazine | 79% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=NC=CC=C1 | C19H19FN6O2
